US08222416B2
A mixture of 2-(2-cyclopentyl-1-{3-fluoro-4-[1-methyl-1-(tetrahydro-pyran-2-yloxy)-ethyl]-phenyl}-vinyl)-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester (3 g, 5.93 mmol) and 10% palladium on activated carbon (900 mg) in methanol (600 mL) was heated at 50° C. under hydrogen (50 bar) for 5 h. The resulting mixture was cooled to 25° C., the catalyst was removed by filtration, washed with ethyl acetate and concentrated in vacuo to afford 2-(2-cyclopentyl-1-{3-fluoro-4-[1-methyl-1-(tetrahydro-pyran-2-yloxy)-ethyl]-phenyl}-ethyl)-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester (1.8 g, 60%) as a white solid which was used in the next step without further purification: LC/MS m/e calcd for C30H37FN2O4 [M+H]+ 509.64, observed 508.9.

reactant | 2-(2-cyclopentyl-1-{3-fluoro-4-[1-methyl-1-(tetrahydro-pyran-2-yloxy)-ethyl]-phenyl}-vinyl)-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 5.93 mmol, 3 g | COC(=O)C=1C=C2C(=NC1)NC(=C2)C(=CC2CCCC2)C2=CC(=C(C=C2)C(C)(OC2OCCCC2)C)F | C30H35FN2O4
catalyst | palladium on activated carbon | 900 mg | [Pd] | Pd
solvent | methanol | 600 mL | CO | CH4O
product | 2-(2-cyclopentyl-1-{3-fluoro-4-[1-methyl-1-(tetrahydro-pyran-2-yloxy)-ethyl]-phenyl}-ethyl)-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 1.8 g, 60% | COC(=O)C=1C=C2C(=NC1)NC(=C2)C(CC2CCCC2)C2=CC(=C(C=C2)C(C)(OC2OCCCC2)C)F | C30H37FN2O4
